************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: TLATSRX2
* View Name:     schematic
* Netlisted on:  Jun  4 07:52:17 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    TLATSRX2
* View Name:    schematic
************************************************************************

.SUBCKT TLATSRX2 D G Q QN RN SN VDD VSS
*.PININFO D:I G:I RN:I SN:I VDD:I VSS:I Q:O QN:O
Mmn5 net191 D VSS VSS g45n1svt m=1 l=45n w=145n
Mmn6 n5 Gbb net191 VSS g45n1svt m=1 l=45n w=145n
Mmn10 net183 SN VSS VSS g45n1svt m=1 l=45n w=205n
Mmn11 Qint n5 net183 VSS g45n1svt m=1 l=45n w=205n
Mmn17 n5 Gb net171 VSS g45n1svt m=1 l=45n w=145n
Mmn16 net171 Qint net167 VSS g45n1svt m=1 l=45n w=145n
Mmn15 net167 RN VSS VSS g45n1svt m=1 l=45n w=145n
Mmn1 Gb G net159 VSS g45n1svt m=1 l=45n w=145n
Mmn0 net159 RN VSS VSS g45n1svt m=1 l=45n w=145n
Mmn22 QN Qint VSS VSS g45n1svt m=1 l=45n w=520n
Mmn21 Q Qbint VSS VSS g45n1svt m=1 l=45n w=520n
Mmn2 Gbb Gb VSS VSS g45n1svt m=1 l=45n w=145n
Mmn20 Qbint Qint VSS VSS g45n1svt m=1 l=45n w=520n
Mmp6 n5 Gb net142 VDD g45p1svt m=1 l=45n w=215n
Mmp5 net142 D VDD VDD g45p1svt m=1 l=45n w=215n
Mmp10 Qint SN VDD VDD g45p1svt m=1 l=45n w=310n
Mmp1 Gb G VDD VDD g45p1svt m=1 l=45n w=215n
Mmp22 QN Qint VDD VDD g45p1svt m=1 l=45n w=780n
Mmp21 Q Qbint VDD VDD g45p1svt m=1 l=45n w=780n
Mmp2 Gbb Gb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp17 n5 Gbb net103 VDD g45p1svt m=1 l=45n w=215n
Mmp16 net103 Qint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp15 net103 RN VDD VDD g45p1svt m=1 l=45n w=215n
Mmp0 Gb RN VDD VDD g45p1svt m=1 l=45n w=215n
Mmp20 Qbint Qint VDD VDD g45p1svt m=1 l=45n w=780n
Mmp11 Qint n5 VDD VDD g45p1svt m=1 l=45n w=310n
.ENDS

